US07807673B2
To a stirred solution of 4-[2-(3-amino-4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-{3-[(dimethylamino)methyl]phenyl}-2-pyrimidinamine (58 mg, 0.13 mmol) in THF (3 mL) was added TEA (27 μL, 0.19 mmol) and 2-thiopheneacetyl chloride (17 μL, 0.13 mmol). After 20 h, the reaction mixture was diluted with EtOAc (20 mL), adsorbed onto silica gel, and purified by column chromatography to give the title compound (58 mg, 77% yield). 1H NMR (400 MHz, d6-DMSO) 610.15 (s, 1H), 9.54 (s, 1H), 8.83 (d, J=7.0 Hz, 1H), 8.48 (d, J=8.8 Hz, 1H), 8.26-8.29 (m, 2H), 7.69 (s, 1H), 7.63 (d, J=8.2 Hz, 1H), 7.47 (t, J=7.9 Hz, 1H), 7.36-7.39 (m, 2H), 7.18 (t, J=7.8 Hz, 1H), 7.13 (t, J=6.9 Hz), 6.96-6.98 (m, 2H), 6.87 (d, J=7.1 Hz, 1H), 6.52 (d, J=5.3 Hz, 1H), 3.99 (s, 2H), 3.32 (s, 2H), 2.15 (s, 6H). ES-LC/MS m/z=578 [M+H]+.

reactant | 4-[2-(3-amino-4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-{3-[(dimethylamino)methyl]phenyl}-2-pyrimidinamine | 0.13 mmol, 58 mg | NC=1C=C(C=CC1F)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)CN(C)C | C26H24FN7
reactant | 2-thiopheneacetyl chloride | 0.13 mmol, 17 μL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(5-{3-[2-({3-[(dimethylamino)methyl]phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}-2-fluorophenyl)-2-(2-thienyl)acetamide | 58 mg, 77% yield | CN(C)CC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(CC=2SC=CC2)=O)F | C32H28FN7OS
